US04039551
A stirred solution of 7-methylthio-1,3-dihydro-5-(2-pyridyl)-2H-1,4-benzodiazepin-2-one (0.0206 mole) in dry pyridine (400 ml.) was treated with phosphorus pentasulfide (5.05 g.), warmed, under nitrogen, at 110°-120° C. for 1 hour, cooled and concentrated in vacuo. Residual pyridine was removed by the successive addition of xylene and toluene to the residue with concentration after each addition. The resulting residue was mixed with dilute sodium carbonate and extracted with chloroform. The chloroform extract was washed with brine, dried over anhydrous sodium sulfate and concentrated. The residue was crystallized to give 7-methylthio-1,3-dihydro-5-(2-pyridyl)-2H-1,4-benzodiazepine-2-thione.

reactant | 7-methylthio-1,3-dihydro-5-(2-pyridyl)-2H-1,4-benzodiazepin-2-one | 0.0206 mole | CSC=1C=CC2=C(C(=NCC(N2)=O)C2=NC=CC=C2)C1 | C15H13N3OS
reactant | phosphorus pentasulfide | 5.05 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | 7-methylthio-1,3-dihydro-5-(2-pyridyl)-2H-1,4-benzodiazepine-2-thione | CSC=1C=CC2=C(C(=NCC(N2)=S)C2=NC=CC=C2)C1 | C15H13N3S2
